US04791127
Synthesis Example 8: Preparation of 2-isopropylsulfonyl-4-methylsulfonyloxy-1,3-thiazole (No. 176):
2.5 g of 2-isopropylthio-4-methylsulfonyloxy-1,3-thiazole was dissolved in 10 ml of acetic acid. 2.9 ml of 35% aqueous hydrogen peroxide was added to the solution and the reaction was continued at 70° to 80° C. for 2 hours. The reaction mixture was poured into cold water and neutralized with 5% aqueous sodium hydroxide. The neutral solution was extracted by ethyl acetate and washed with saturated aqueous solution of common salt, followed by drying over anhydrous sodium sulfate to be concentrated to 2.5 g of a white crystal of the objective compound (yield: 88.7%).

reactant | 2-isopropylthio-4-methylsulfonyloxy-1,3-thiazole | 2.5 g | C(C)(C)SC=1SC=C(N1)OS(=O)(=O)C | C7H11NO3S3
reactant | hydrogen peroxide | 2.9 ml | OO | H2O2
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-isopropylsulfonyl-4-methylsulfonyloxy-1,3-thiazole | yield: 88.7% | C(C)(C)S(=O)(=O)C=1SC=C(N1)OS(=O)(=O)C | C7H11NO5S3
